US04994569
Phenyl isocyanate (2 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (5RS, 6SR)-2-(4-tert-butylphenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (3.2 g) in anhydrous tetrahydrofuran (35 cc). The solution obtained is heated to 50° C. for 5 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is purified by chromatography on silica (0.063-0.2 mm; 200 g) contained in a column 3.5 cm in diameter, collecting 20-cc fractions. Fractions 22 to 29, eluted with a mixture of cyclohexane and ethyl acetate (7:3 by volume), are concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The solid obtained is again purified by chromatography on silica (0.063-0.2 mm; 200 g) contained in a column 2.5 cm in diameter, collecting 10-cc fractions. Fractions 19 to 25, eluted with a mixture of dichloromethane and methanol (98:2 by volume), are concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in ethyl acetate, (5RS, 6SR)-2-(4-tert-butylphenyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine (1.4 g), m.p. 80° C., is obtained.

reactant | Phenyl isocyanate | 2 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (5RS, 6SR)-2-(4-tert-butylphenyl)-6-phenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 3.2 g | C(C)(C)(C)C1=CC=C(C=C1)C=1OC(C(CN1)O)C1=CC=CC=C1 | C20H23NO2
solvent | tetrahydrofuran | 35 cc | O1CCCC1 | C4H8O
product | (5RS, 6SR)-2-(4-tert-butylphenyl)-6-phenyl-5-phenylcarbamoyloxy-5,6-dihydro-4H-1,3-oxazine | 1.4 g | C(C)(C)(C)C1=CC=C(C=C1)C=1OC(C(CN1)OC(NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C27H28N2O3
